US04643849
With 2 ml of ethanol was mixed 1 g of 2-{[2-(dimethylamino)methyl-4-thiazolyl]methylthio}ethylamine and 1.1 g of 2-nitromethylene-5-phenyl-oxazolidine, and the resulting mixture was subjected to reaction under reflux for 1 hour. After completion of the reaction, the reaction mixture was filtered with cooling, and the solvent was removed by distillation under reduced pressure, after which the resulting residue was purified by a column chromatography (Wako Silica Gel C-200, eluent:chloroform:ethanol=20:1 by volume) to obtain 1.3 g (yield 68%) of N-{2-[[2-(dimethylamino)methyl-4-thiazolyl]methylthio]ethyl}-N'-(β-hydroxyphenethyl)-2-nitro-1,1-ethenediamine having a melting point of 100°-101° C.

reactant | 2-{[2-(dimethylamino)methyl-4-thiazolyl]methylthio}ethylamine | 1 g | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | 2-nitromethylene-5-phenyl-oxazolidine | 1.1 g | [N+](=O)([O-])C=C1OC(CN1)C1=CC=CC=C1 | C10H10N2O3
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | N-{2-[[2-(dimethylamino)methyl-4-thiazolyl]methylthio]ethyl}-N'-(β-hydroxyphenethyl)-2-nitro-1,1-ethenediamine | 1.3 g, yield 68% | CN(C)CC=1SC=C(N1)CSCCNC(=C[N+](=O)[O-])NCC(C1=CC=CC=C1)O | C19H27N5O3S2
